US07572928B2
(2R)-2-benzyl-5-(trimethylsilyl)pent-3-enoic acid
To a solution of (2R)-2-benzylbut-3-enoic acid (1.4 mmol, 250 mg) and allyltrimethylsilane (4.2 mmol, 0.67 mL) in DCM (3 mL) at reflux was added Hoveyda-Grubbs second generation catalyst (5 mol %, 44 mg). The reaction was allowed to stir at reflux for 50 hrs. The solvent was removed in vacuo. The crude product was purified by column chromatography (184 mg, 50%). 1H NMR (400 MHz, CDCl3): δ=7.15-7.30 (m, 5H), 5.48-5.56 (m, 1H), 5.26 (dd, J=8.8, 15.2, 1H), 3.30 (m, 1H), 3.10 (dd, J=7.1, 13.9, 1H), 2.80 (dd, J=7.8, 13.6, 1H), 1.43 (d, J=8.3, 2H), −0.08 (s, 9H); 13C NMR (125 MHz, CDCl3): δ=179.5, 138.7, 131.4, 130.1, 129.1, 129.0, 128.3, 126.4, 126.3, 124.3, 123.7, 50.8, 38.5, 22.9, 18.9, −2.08; IR (CHCl3): v 2955, 1797; HMRS required for C15H21O2Si ([M−H]−) 261.1311 found 261.1318; [α]D21=−39.4 (c, 0.5, CHCl3).

reactant | (2R)-2-benzylbut-3-enoic acid | 1.4 mmol, 250 mg | C(C1=CC=CC=C1)[C@@H](C(=O)O)C=C | C11H12O2
reactant | allyltrimethylsilane | 4.2 mmol, 0.67 mL | C(C=C)[Si](C)(C)C | C6H14Si
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Hoveyda-Grubbs second generation | 44 mg | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=C(C=CC=C3)OC(C)C)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C
product | (2R)-2-benzyl-5-(trimethylsilyl)pent-3-enoic acid | C(C1=CC=CC=C1)[C@@H](C(=O)O)C=CC[Si](C)(C)C | C15H22O2Si
